US06645990B2
1-[2-(4-Methoxyphenyl)thiazol-4-yl]-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea
A stirred suspension of N-(2-bromo(1,3-thiazol-4-yl)){[6-(piperidylmethyl)(2-pyridyl)]amino}carboxamide (2.23 g, 5.64 mmol), 4-methoxyphenylboronic acid (0.94 g, 6.21 mmol), PdCl2(dppf)2 (0.46 g, 0.56 mmol) and Na2CO3 (2.10 g, 17.0 mmol) in ethylene glycol dimethyl ether (25 ml) and H2O (8 ml) was heated at reflux for 12 h. After cooling to RT the mixture was filtered through Celite®. The filtrate was concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel (3:1, EtOAc:acetone) to yield the title compound as a pale yellow amorphous solid. MS m/z: 424 (M+H). Calc'd for C22H25N5O2S: 423.17.

reactant | N-(2-bromo(1,3-thiazol-4-yl)){[6-(piperidylmethyl)(2-pyridyl)]amino}carboxamide | 5.64 mmol, 2.23 g | BrC=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CN1CCCCC1 | C15H18BrN5OS
reactant | 4-methoxyphenylboronic acid | 6.21 mmol, 0.94 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 17.0 mmol, 2.10 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 25 ml | COCCOC | C4H10O2
solvent | H2O | 8 ml | O | H2O
catalyst | PdCl2(dppf)2 | 0.56 mmol, 0.46 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[2-(4-Methoxyphenyl)thiazol-4-yl]-3-(6-piperidin-1-ylmethyl-pyridin-2-yl)urea | COC1=CC=C(C=C1)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CN1CCCCC1 | C22H25N5O2S
